US04278577
Preparation of N,N'-Bis(4-t-butyl-3-hydroxy-2,6-dimethylbenzyl)-N,N'-Dioctadecyl-m-Benzenedisulfonamide
A stirred solution of 6-t-butyl-3-(octadecylaminomethyl)-2,4-dimethylphenol (9.18 grams; 0.02 mole) in tetrahydrofuran (50 mls) is treated with a solution of 1,3-benzene-disulfonyl chloride (2.7 grams; 0.01 mole) in acetone (10 mls) over a period of 10 minutes while maintaining the temperature at 35°-40° C. The reaction mixture is then slowly treated with a solution of 50% caustic soda (1.6 grams; 0.02 mole) in water (5 mls) over a period of 15 minutes while the temperature is maintained at 30°-35° C. The mixture is then stirred at room temperature for 20 hours and treated with water (30 mls). The reaction mixture is allowed to settle, and the organic layer is split off and concentrated to obtain a viscous oil which solidifies upon mixing with methanol (25 mls). After allowing the reaction mixture to stand at room temperature for 18 hours, the methanol is removed by evaporation and replaced with absolute ethanol (20 mls). The solid is recovered by filtration to obtain the crude product (4.0 grams; 35.8% of theoretical). Recrystallization from absolute ethanol containing 20% methanol affords the pure product (3.1 grams; m.p. 81°-82° C.).

reactant | 6-t-butyl-3-(octadecylaminomethyl)-2,4-dimethylphenol | 0.02 mole, 9.18 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CNCCCCCCCCCCCCCCCCCC)C | C31H57NO
reactant | 1,3-benzene-disulfonyl chloride | 0.01 mole, 2.7 grams | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | caustic soda | 0.02 mole, 1.6 grams | [OH-].[Na+]
reactant | methanol | 25 mls | CO | CH4O
solvent | tetrahydrofuran | 50 mls | O1CCCC1 | C4H8O
solvent | acetone | 10 mls | CC(=O)C | C3H6O
solvent | water | 5 mls | O | H2O
solvent | water | 30 mls | O | H2O
product | N,N'-Bis(4-t-butyl-3-hydroxy-2,6-dimethylbenzyl)-N,N'-Dioctadecyl-m-Benzenedisulfonamide | 4.0 grams, 35.8% | C(C)(C)(C)C1=C(C(=C(CN(S(=O)(=O)C2=CC(=CC=C2)S(=O)(=O)N(CCCCCCCCCCCCCCCCCC)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)CCCCCCCCCCCCCCCCCC)C(=C1)C)C)O | C68H116N2O6S2
